* preamp_singleslope
.subckt preamp_singleslope vdd inp inn outn outp iref vss
    X0 iref.t0 a_914_n4014# a_856_n3988.t0 vdd.t23 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X1 vdd.t48 iref.t1 iref.t2 vdd.t47 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X2 outp.t16 inn.t0 a_n5524_n9116.t17 vdd.t49 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X3 a_n5524_n9116.t0 a_n6524_n9213# a_n6582_n9116.t0 vdd.t0 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X4 a_n5524_n9116.t9 inp.t0 outn.t15 vdd.t17 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X5 a_n5524_n9116.t19 inn.t1 outp.t15 vdd.t18 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X6 a_n5524_n9116.t35 iref.t3 vdd.t46 vdd.t45 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X7 a_n5524_n9116.t7 inp.t1 outn.t14 vdd.t13 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X8 vdd.t44 iref.t4 a_n5524_n9116.t34 vdd.t43 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X9 vdd.t42 iref.t5 a_n5524_n9116.t33 vdd.t41 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X10 outp.t14 inn.t2 a_n5524_n9116.t22 vdd.t6 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X11 a_14610_n3988.t0 a_13610_n4014# vdd.t10 vdd.t9 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X12 outn.t13 inp.t2 a_n5524_n9116.t13 vdd.t24 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X13 outp.t13 inn.t3 a_n5524_n9116.t23 vdd.t25 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X14 a_n5524_n9116.t21 inn.t4 outp.t12 vdd.t7 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X15 a_n5524_n9116.t2 inp.t3 outn.t12 vdd.t3 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X16 a_n5524_n9116.t32 iref.t6 vdd.t40 vdd.t39 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X17 a_n5524_n9116.t31 iref.t7 vdd.t38 vdd.t37 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X18 a_n5524_n9116.t20 inn.t5 outp.t11 vdd.t2 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X19 a_n5524_n9116.t6 inp.t4 outn.t11 vdd.t12 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X20 outp.t1 a_7904_n10152.t0 vss.t2 sky130_fd_pr__res_xhigh_po_0p35 l=7e+06u
    X21 outn.t10 inp.t5 a_n5524_n9116.t8 vdd.t14 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X22 outn.t9 inp.t6 a_n5524_n9116.t11 vdd.t20 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X23 a_n5524_n9116.t16 inn.t6 outp.t10 vdd.t50 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X24 outn.t2 a_7904_n10152.t2 vss.t19 vss.t18 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X25 a_n5524_n9116.t30 iref.t8 vdd.t36 vdd.t35 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X26 a_20926_n9116.t0 a_19926_n9213# a_n5524_n9116.t1 vdd.t1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X27 vss.t15 a_7904_n10152.t3 outn.t0 vss.t15 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X28 outn.t3 a_7904_n10152.t4 vss.t16 vss.t15 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X29 vss.t14 a_7904_n10152.t5 outp.t4 vss.t13 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X30 vdd.t34 iref.t9 a_n5524_n9116.t29 vdd.t33 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X31 outp.t9 inn.t7 a_n5524_n9116.t18 vdd.t16 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X32 a_18846_n14764.t0 a_17846_n14790# vss.t1 vss.t0 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X33 outn.t8 inp.t7 a_n5524_n9116.t5 vdd.t11 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X34 a_n5524_n9116.t24 inn.t8 outp.t8 vdd.t21 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X35 outn.t7 inp.t8 a_n5524_n9116.t10 vdd.t19 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X36 vdd.t32 iref.t10 a_n5524_n9116.t28 vdd.t31 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X37 a_n5524_n9116.t25 inn.t9 outp.t7 vdd.t26 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X38 vss.t4 a_8324_n14790# a_8266_n14764.t0 vss.t3 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X39 a_n5524_n9116.t27 iref.t11 vdd.t30 vdd.t29 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X40 outp.t6 inn.t10 a_n5524_n9116.t14 vdd.t15 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X41 outn.t16 a_7904_n10152.t1 vss.t20 sky130_fd_pr__res_xhigh_po_0p35 l=7e+06u
    X42 vss.t12 a_7904_n10152.t6 outp.t3 vss.t11 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X43 vss.t8 a_7904_n10152.t7 outn.t1 vss.t7 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X44 a_n5524_n9116.t3 inp.t9 outn.t6 vdd.t4 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X45 outp.t2 a_7904_n10152.t8 vss.t10 vss.t9 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X46 vdd.t28 iref.t12 a_n5524_n9116.t26 vdd.t27 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.7e+07u l=5e+06u
    X47 outn.t5 inp.t10 a_n5524_n9116.t12 vdd.t22 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X48 outp.t5 inn.t11 a_n5524_n9116.t15 vdd.t5 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    X49 outp.t0 a_7904_n10152.t9 vss.t6 vss.t5 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=2.5e+07u l=5e+06u
    X50 a_n5524_n9116.t4 inp.t11 outn.t4 vdd.t8 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=2.2e+07u l=5e+06u
    R0 iref.n0 iref.t12 338.414
    R1 iref.n1 iref.n0 205.187
    R2 iref.n2 iref.n1 205.187
    R3 iref.n3 iref.n2 205.187
    R4 iref.n4 iref.n3 205.187
    R5 iref.n5 iref.n4 205.187
    R6 iref.n6 iref.n5 205.187
    R7 iref.n7 iref.n6 205.187
    R8 iref.n8 iref.n7 205.187
    R9 iref.n9 iref.n8 202.56
    R10 iref.n8 iref.t6 133.227
    R11 iref.n7 iref.t10 133.227
    R12 iref.n6 iref.t3 133.227
    R13 iref.n5 iref.t9 133.227
    R14 iref.n4 iref.t11 133.227
    R15 iref.n3 iref.t4 133.227
    R16 iref.n2 iref.t8 133.227
    R17 iref.n1 iref.t5 133.227
    R18 iref.n0 iref.t7 133.227
    R19 iref.n9 iref.t1 130.145
    R20 iref.n10 iref.n9 52.82
    R21 iref.n10 iref 7.304
    R22 iref.n10 iref.t2 1.057
    R23 iref.n10 iref.t0 1.057
    R24 vdd.n18 vdd.n17 57035.3
    R25 vdd.n19 vdd.n16 5504.86
    R26 vdd.n16 vdd.t0 2014.52
    R27 vdd.n12 vdd.n11 1101.19
    R28 vdd.n20 vdd.n19 923.599
    R29 vdd.n10 vdd.t23 672.777
    R30 vdd.n12 vdd.n10 336.143
    R31 vdd.t1 vdd.t18 210.801
    R32 vdd.t18 vdd.t15 210.801
    R33 vdd.t15 vdd.t7 210.801
    R34 vdd.t7 vdd.t5 210.801
    R35 vdd.t5 vdd.t26 210.801
    R36 vdd.t26 vdd.t25 210.801
    R37 vdd.t25 vdd.t8 210.801
    R38 vdd.t8 vdd.t20 210.801
    R39 vdd.t20 vdd.t3 210.801
    R40 vdd.t3 vdd.t11 210.801
    R41 vdd.t11 vdd.t13 210.801
    R42 vdd.t13 vdd.t22 210.801
    R43 vdd.t12 vdd.t24 210.801
    R44 vdd.t24 vdd.t4 210.801
    R45 vdd.t4 vdd.t14 210.801
    R46 vdd.t14 vdd.t17 210.801
    R47 vdd.t17 vdd.t19 210.801
    R48 vdd.t19 vdd.t21 210.801
    R49 vdd.t21 vdd.t6 210.801
    R50 vdd.t6 vdd.t2 210.801
    R51 vdd.t2 vdd.t49 210.801
    R52 vdd.t49 vdd.t50 210.801
    R53 vdd.t50 vdd.t16 210.801
    R54 vdd.t16 vdd.t0 210.801
    R55 vdd.t27 vdd.t9 174.254
    R56 vdd.t37 vdd.t27 174.254
    R57 vdd.t41 vdd.t37 174.254
    R58 vdd.t35 vdd.t41 174.254
    R59 vdd.t43 vdd.t35 174.254
    R60 vdd.t29 vdd.t43 174.254
    R61 vdd.t29 vdd.t33 174.254
    R62 vdd.t33 vdd.t45 174.254
    R63 vdd.t45 vdd.t31 174.254
    R64 vdd.t31 vdd.t39 174.254
    R65 vdd.t39 vdd.t47 174.254
    R66 vdd.n18 vdd.t1 128.115
    R67 vdd.n16 vdd.t12 105.4
    R68 vdd.t22 vdd.n17 101.017
    R69 vdd.n2 vdd.n0 5.253
    R70 vdd.n7 vdd.n5 5.216
    R71 vdd.n4 vdd.n3 4.468
    R72 vdd.n9 vdd.n8 4.45
    R73 vdd.n7 vdd.n6 4.45
    R74 vdd.n2 vdd.n1 4.45
    R75 vdd.n16 vdd.n15 2.255
    R76 vdd.n13 vdd.t29 1.625
    R77 vdd.n8 vdd.t36 1.057
    R78 vdd.n8 vdd.t44 1.057
    R79 vdd.n6 vdd.t38 1.057
    R80 vdd.n6 vdd.t42 1.057
    R81 vdd.n5 vdd.t10 1.057
    R82 vdd.n5 vdd.t28 1.057
    R83 vdd.n3 vdd.t30 1.057
    R84 vdd.n3 vdd.t34 1.057
    R85 vdd.n1 vdd.t46 1.057
    R86 vdd.n1 vdd.t32 1.057
    R87 vdd.n0 vdd.t40 1.057
    R88 vdd.n0 vdd.t48 1.057
    R89 vdd vdd.n14 0.908
    R90 vdd.n9 vdd.n7 0.766
    R91 vdd.n4 vdd.n2 0.766
    R92 vdd.n14 vdd.n9 0.602
    R93 vdd.n14 vdd.n13 0.513
    R94 vdd.n20 vdd.n15 0.411
    R95 vdd.n14 vdd.n4 0.167
    R96 vdd vdd.n20 0.018
    R97 vdd.n13 vdd.n12 0.003
    R98 vdd.n19 vdd.n18 0.001
    R99 vdd.n17 vdd.n15 0.001
    R100 inn.n0 inn.t1 111.257
    R101 inn.n6 inn.t7 111.257
    R102 inn.n10 inn.t8 109.127
    R103 inn.n4 inn.t3 109.124
    R104 inn.n3 inn.t9 109.124
    R105 inn.n2 inn.t11 109.124
    R106 inn.n1 inn.t4 109.124
    R107 inn.n0 inn.t10 109.124
    R108 inn.n6 inn.t6 109.124
    R109 inn.n7 inn.t0 109.124
    R110 inn.n8 inn.t5 109.124
    R111 inn.n9 inn.t2 109.124
    R112 inn.n11 inn.n5 34.005
    R113 inn.n5 inn 7.136
    R114 inn.n1 inn.n0 2.133
    R115 inn.n2 inn.n1 2.133
    R116 inn.n3 inn.n2 2.133
    R117 inn.n4 inn.n3 2.133
    R118 inn.n9 inn.n8 2.133
    R119 inn.n8 inn.n7 2.133
    R120 inn.n7 inn.n6 2.133
    R121 inn.n10 inn.n9 2.064
    R122 inn.n11 inn 1.562
    R123 inn.n11 inn 0.25
    R124 inn.n11 inn.n10 0.237
    R125 inn.n5 inn.n4 0.075
    R126 inn inn.n11 0.031
    R127 a_n5524_n9116.n21 a_n5524_n9116.n19 3.516
    R128 a_n5524_n9116.n8 a_n5524_n9116.n6 3.481
    R129 a_n5524_n9116.n10 a_n5524_n9116.n9 2.712
    R130 a_n5524_n9116.n21 a_n5524_n9116.n20 2.704
    R131 a_n5524_n9116.n8 a_n5524_n9116.n7 2.701
    R132 a_n5524_n9116.n25 a_n5524_n9116.n24 2.693
    R133 a_n5524_n9116.n23 a_n5524_n9116.n22 2.693
    R134 a_n5524_n9116.n18 a_n5524_n9116.n17 2.693
    R135 a_n5524_n9116.n12 a_n5524_n9116.n11 2.69
    R136 a_n5524_n9116.n29 a_n5524_n9116.n28 2.682
    R137 a_n5524_n9116.n27 a_n5524_n9116.n26 2.682
    R138 a_n5524_n9116.n14 a_n5524_n9116.n13 2.682
    R139 a_n5524_n9116.n16 a_n5524_n9116.n15 2.682
    R140 a_n5524_n9116.n5 a_n5524_n9116.n3 2.653
    R141 a_n5524_n9116.n2 a_n5524_n9116.n0 2.594
    R142 a_n5524_n9116.n5 a_n5524_n9116.n4 1.873
    R143 a_n5524_n9116.n32 a_n5524_n9116.n31 1.872
    R144 a_n5524_n9116.n2 a_n5524_n9116.n1 1.832
    R145 a_n5524_n9116.n28 a_n5524_n9116.t5 1.298
    R146 a_n5524_n9116.n28 a_n5524_n9116.t7 1.298
    R147 a_n5524_n9116.n26 a_n5524_n9116.t11 1.298
    R148 a_n5524_n9116.n26 a_n5524_n9116.t2 1.298
    R149 a_n5524_n9116.n24 a_n5524_n9116.t23 1.298
    R150 a_n5524_n9116.n24 a_n5524_n9116.t4 1.298
    R151 a_n5524_n9116.n22 a_n5524_n9116.t15 1.298
    R152 a_n5524_n9116.n22 a_n5524_n9116.t25 1.298
    R153 a_n5524_n9116.n20 a_n5524_n9116.t14 1.298
    R154 a_n5524_n9116.n20 a_n5524_n9116.t21 1.298
    R155 a_n5524_n9116.n19 a_n5524_n9116.t1 1.298
    R156 a_n5524_n9116.n19 a_n5524_n9116.t19 1.298
    R157 a_n5524_n9116.n9 a_n5524_n9116.t22 1.298
    R158 a_n5524_n9116.n9 a_n5524_n9116.t20 1.298
    R159 a_n5524_n9116.n17 a_n5524_n9116.t12 1.298
    R160 a_n5524_n9116.n17 a_n5524_n9116.t6 1.298
    R161 a_n5524_n9116.n11 a_n5524_n9116.t10 1.298
    R162 a_n5524_n9116.n11 a_n5524_n9116.t24 1.298
    R163 a_n5524_n9116.n13 a_n5524_n9116.t8 1.298
    R164 a_n5524_n9116.n13 a_n5524_n9116.t9 1.298
    R165 a_n5524_n9116.n15 a_n5524_n9116.t13 1.298
    R166 a_n5524_n9116.n15 a_n5524_n9116.t3 1.298
    R167 a_n5524_n9116.n7 a_n5524_n9116.t17 1.298
    R168 a_n5524_n9116.n7 a_n5524_n9116.t16 1.298
    R169 a_n5524_n9116.n6 a_n5524_n9116.t18 1.298
    R170 a_n5524_n9116.n6 a_n5524_n9116.t0 1.298
    R171 a_n5524_n9116.n4 a_n5524_n9116.t33 1.057
    R172 a_n5524_n9116.n4 a_n5524_n9116.t30 1.057
    R173 a_n5524_n9116.n3 a_n5524_n9116.t26 1.057
    R174 a_n5524_n9116.n3 a_n5524_n9116.t31 1.057
    R175 a_n5524_n9116.n1 a_n5524_n9116.t29 1.057
    R176 a_n5524_n9116.n1 a_n5524_n9116.t35 1.057
    R177 a_n5524_n9116.n0 a_n5524_n9116.t28 1.057
    R178 a_n5524_n9116.n0 a_n5524_n9116.t32 1.057
    R179 a_n5524_n9116.t34 a_n5524_n9116.n32 1.057
    R180 a_n5524_n9116.n32 a_n5524_n9116.t27 1.057
    R181 a_n5524_n9116.n23 a_n5524_n9116.n21 0.794
    R182 a_n5524_n9116.n27 a_n5524_n9116.n25 0.794
    R183 a_n5524_n9116.n16 a_n5524_n9116.n14 0.793
    R184 a_n5524_n9116.n29 a_n5524_n9116.n27 0.792
    R185 a_n5524_n9116.n18 a_n5524_n9116.n16 0.791
    R186 a_n5524_n9116.n25 a_n5524_n9116.n23 0.791
    R187 a_n5524_n9116.n14 a_n5524_n9116.n12 0.79
    R188 a_n5524_n9116.n12 a_n5524_n9116.n10 0.79
    R189 a_n5524_n9116.n10 a_n5524_n9116.n8 0.785
    R190 a_n5524_n9116.n31 a_n5524_n9116.n5 0.553
    R191 a_n5524_n9116.n31 a_n5524_n9116.n2 0.497
    R192 a_n5524_n9116.n31 a_n5524_n9116.n30 0.33
    R193 a_n5524_n9116.n30 a_n5524_n9116.n18 0.121
    R194 a_n5524_n9116.n30 a_n5524_n9116.n29 0.114
    R195 outp.n14 outp.t1 10.77
    R196 outp.n6 outp.n5 5.943
    R197 outp.n9 outp.n7 2.978
    R198 outp.n4 outp.n2 2.911
    R199 outp.n9 outp.n8 2.202
    R200 outp.n6 outp.n0 2.202
    R201 outp.n5 outp.n1 2.162
    R202 outp.n4 outp.n3 2.159
    R203 outp.n13 outp.n11 2.095
    R204 outp.n7 outp.t15 1.298
    R205 outp.n7 outp.t6 1.298
    R206 outp.n8 outp.t12 1.298
    R207 outp.n8 outp.t5 1.298
    R208 outp.n0 outp.t7 1.298
    R209 outp.n0 outp.t13 1.298
    R210 outp.n1 outp.t8 1.298
    R211 outp.n1 outp.t14 1.298
    R212 outp.n3 outp.t11 1.298
    R213 outp.n3 outp.t16 1.298
    R214 outp.n2 outp.t10 1.298
    R215 outp.n2 outp.t9 1.298
    R216 outp.n5 outp.n4 0.749
    R217 outp.n12 outp.t4 0.696
    R218 outp.n12 outp.t2 0.696
    R219 outp.n11 outp.t3 0.696
    R220 outp.n11 outp.t0 0.696
    R221 outp.n13 outp.n12 0.508
    R222 outp.n10 outp.n9 0.221
    R223 outp outp.n10 0.218
    R224 outp.n10 outp.n6 0.215
    R225 outp outp.n14 0.163
    R226 outp.n14 outp.n13 0.109
    R227 inp.n0 inp.t11 111.465
    R228 inp inp.t8 110.906
    R229 inp.n9 inp.t0 109.124
    R230 inp.n8 inp.t5 109.124
    R231 inp.n7 inp.t9 109.124
    R232 inp.n6 inp.t2 109.124
    R233 inp.n5 inp.t4 109.124
    R234 inp.n4 inp.t10 109.124
    R235 inp.n3 inp.t1 109.124
    R236 inp.n2 inp.t7 109.124
    R237 inp.n1 inp.t3 109.124
    R238 inp.n0 inp.t6 109.124
    R239 inp.n1 inp.n0 2.28
    R240 inp.n2 inp.n1 2.28
    R241 inp.n3 inp.n2 2.28
    R242 inp.n4 inp.n3 2.28
    R243 inp.n5 inp.n4 2.28
    R244 inp.n6 inp.n5 2.28
    R245 inp.n7 inp.n6 2.28
    R246 inp.n8 inp.n7 2.28
    R247 inp.n9 inp.n8 2.28
    R248 inp.n10 inp.n9 0.293
    R249 inp inp.n10 0.081
    R250 inp.n10 inp 0.076
    R251 outn.n14 outn.t16 11.312
    R252 outn.n13 outn.n12 3.371
    R253 outn.n2 outn.n0 2.948
    R254 outn.n15 outn.n11 2.723
    R255 outn.n2 outn.n1 2.227
    R256 outn.n10 outn.n9 2.201
    R257 outn.n4 outn.n3 2.2
    R258 outn.n6 outn.n5 2.2
    R259 outn.n8 outn.n7 2.2
    R260 outn.n9 outn.t4 1.298
    R261 outn.n9 outn.t9 1.298
    R262 outn.n1 outn.t6 1.298
    R263 outn.n1 outn.t10 1.298
    R264 outn.n3 outn.t11 1.298
    R265 outn.n3 outn.t13 1.298
    R266 outn.n5 outn.t14 1.298
    R267 outn.n5 outn.t5 1.298
    R268 outn.n7 outn.t12 1.298
    R269 outn.n7 outn.t8 1.298
    R270 outn.n0 outn.t15 1.298
    R271 outn.n0 outn.t7 1.298
    R272 outn.n16 outn 1.02
    R273 outn.n8 outn.n6 0.773
    R274 outn.n4 outn.n2 0.769
    R275 outn.n6 outn.n4 0.765
    R276 outn.n11 outn.t0 0.696
    R277 outn.n11 outn.t2 0.696
    R278 outn.n12 outn.t1 0.696
    R279 outn.n12 outn.t3 0.696
    R280 outn.n10 outn.n8 0.619
    R281 outn.n16 outn.n10 0.343
    R282 outn.n16 outn 0.319
    R283 outn.n14 outn.n13 0.195
    R284 outn.n13 outn 0.076
    R285 outn.n15 outn.n14 0.06
    R286 outn outn.n15 0.023
    R287 outn.n16 outn 0.002
    R288 a_7904_n10152.n6 a_7904_n10152.n5 270.848
    R289 a_7904_n10152.n5 a_7904_n10152.n4 270.848
    R290 a_7904_n10152.n4 a_7904_n10152.n3 270.848
    R291 a_7904_n10152.n3 a_7904_n10152.n2 270.848
    R292 a_7904_n10152.n2 a_7904_n10152.n1 270.848
    R293 a_7904_n10152.n1 a_7904_n10152.n0 252.177
    R294 a_7904_n10152.n7 a_7904_n10152.n6 248.346
    R295 a_7904_n10152.n1 a_7904_n10152.t6 123.155
    R296 a_7904_n10152.n2 a_7904_n10152.t2 123.155
    R297 a_7904_n10152.n3 a_7904_n10152.t3 123.155
    R298 a_7904_n10152.n4 a_7904_n10152.t4 123.155
    R299 a_7904_n10152.n5 a_7904_n10152.t7 123.155
    R300 a_7904_n10152.n6 a_7904_n10152.t8 123.155
    R301 a_7904_n10152.n0 a_7904_n10152.t9 120.504
    R302 a_7904_n10152.n7 a_7904_n10152.t5 120.504
    R303 a_7904_n10152.n0 a_7904_n10152.t1 43.353
    R304 a_7904_n10152.t0 a_7904_n10152.n7 29.931
    R305 vss.n38 vss.t20 250.847
    R306 vss.n23 vss.t2 250.847
    R307 vss.n20 vss.n10 243.201
    R308 vss.n28 vss.n25 243.197
    R309 vss.t3 vss.n38 113.014
    R310 vss.t0 vss.n23 102.845
    R311 vss.t9 vss.t13 67.232
    R312 vss.t7 vss.t9 67.232
    R313 vss.t15 vss.t7 67.232
    R314 vss.t15 vss.t18 67.232
    R315 vss.t18 vss.t11 67.232
    R316 vss.t11 vss.t5 67.232
    R317 vss.t5 vss.t3 67.232
    R318 vss.t13 vss.t0 67.232
    R319 vss.t15 vss.n6 16.182
    R320 vss.n31 vss.n29 13.078
    R321 vss.n31 vss.n30 13.078
    R322 vss.n15 vss.n13 12.243
    R323 vss.n15 vss.n14 12.243
    R324 vss.n40 vss.n39 9.3
    R325 vss.n16 vss.n12 8.479
    R326 vss.t15 vss 7.473
    R327 vss.t15 vss.n40 6.909
    R328 vss.n5 vss.n3 5.862
    R329 vss.n2 vss.n0 5.832
    R330 vss.n5 vss.n4 5.092
    R331 vss.n2 vss.n1 5.092
    R332 vss vss.t15 0.813
    R333 vss.t15 vss.n2 0.77
    R334 vss.t15 vss.n5 0.768
    R335 vss.n4 vss.t10 0.696
    R336 vss.n4 vss.t8 0.696
    R337 vss.n3 vss.t1 0.696
    R338 vss.n3 vss.t14 0.696
    R339 vss.n0 vss.t6 0.696
    R340 vss.n0 vss.t4 0.696
    R341 vss.n1 vss.t19 0.696
    R342 vss.n1 vss.t12 0.696
    R343 vss.t15 vss.t16 0.696
    R344 vss.n33 vss.n32 0.313
    R345 vss.n17 vss.n16 0.308
    R346 vss.n40 vss 0.183
    R347 vss.n27 vss.n26 0.13
    R348 vss.n8 vss.n7 0.13
    R349 vss.t2 vss.n8 0.13
    R350 vss.n28 vss.n27 0.127
    R351 vss.n25 vss.n24 0.006
    R352 vss.n37 vss.n36 0.006
    R353 vss.n38 vss.n37 0.006
    R354 vss.n22 vss.n21 0.006
    R355 vss.n23 vss.n22 0.006
    R356 vss.n10 vss.n9 0.006
    R357 vss.n34 vss.n33 0.004
    R358 vss.n18 vss.n17 0.004
    R359 vss.t20 vss.n28 0.004
    R360 vss.n20 vss.n19 0.004
    R361 vss.n35 vss.n34 0.004
    R362 vss.t20 vss.n35 0.004
    R363 vss.n19 vss.n18 0.004
    R364 vss.n12 vss.n11 0.003
    R365 vss.n32 vss.n31 0.002
    R366 vss.n16 vss.n15 0.002
    R367 vss.t2 vss.n20 0.001
    C0 a_17846_n14790# outp 0.57fF
    C1 outp inn 10.31fF
    C2 vdd inp 22.35fF
    C3 a_914_n4014# vdd 1.67fF
    C4 outp outn 3.99fF
    C5 vdd a_8324_n14790# 0.08fF
    C6 inn inp 4.55fF
    C7 outn inp 9.58fF
    C8 a_8324_n14790# outn 0.58fF
    C9 a_914_n4014# iref 0.07fF
    C10 outp inp 7.31fF
    C11 a_n6524_n9213# vdd 1.67fF
    C12 a_17846_n14790# vdd 0.08fF
    C13 vdd inn 22.56fF
    C14 vdd outn 0.95fF
    C15 a_13610_n4014# vdd 1.95fF
    C16 a_n6524_n9213# inn 0.10fF
    C17 inn outn 0.61fF
    C18 vdd iref 36.16fF
    C19 a_19926_n9213# vdd 1.67fF
    C20 a_13610_n4014# iref 0.07fF
    C21 a_19926_n9213# inn 0.10fF
    C22 outp vdd 0.95fF
.ends


